US04749791
8.40 g (0.038 mol) of 8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline were dissolved in 20 ml of pyridine and 23.4 g (0.172 mol) of propionic anhydride were added dropwise thereto at 0°. After stirring overnight at room temperature the mixture was extracted with water and ethyl acetate, dried with magnesium sulphate and the solvent was distilled off in vacuo. Chromatography (silica gel, chloroform-hexane 3:1) and crystallization (ethyl acetate) gave 4-propionyl-8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline as white crystals of melting point 115°-117°.

reactant | 8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | 0.038 mol, 8.40 g | ClC1=CC2=C(C=3CCCNC3CC2)C=C1 | C13H14ClN
reactant | propionic anhydride | 0.172 mol, 23.4 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4-propionyl-8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | C(CC)(=O)N1CCCC=2C3=C(CCC12)C=C(C=C3)Cl | C16H18ClNO
